US08202865B2
Step 3: 4-(2-methylpiperidin-1-yl)-3-[(methylsulfonyl)amino]benzoic acid
Methanesulfonyl chloride (1.68 mL; 21.72 mmol; 1.10 eq.) was added dropwise (addition took 5 min) to a cold (0° C.) solution of Py (10 mL) and ethyl 3-amino-4-(2-methylpiperidin-1-yl)benzoate (5.18 g; 19.74 mmol; 1 eq.) in DCM (40 mL) and the reaction mixture was allowed to return to RT over one hour. The reaction mixture was stirred at RT for 3 hours. The reaction mixture was concentrated and the residue was taken up in water. The aqueous phase was extracted with EtOAc. The combined organic phases were washed with 1M HCl then brine, dried over MgSO4 and concentrated giving a yellow oil. This oil was taken up in THF (30 mL) and lithium hydroxide (2.36 g; 98.72 mmol; 5 eq.) was added, followed by water (30 mL). The resulting mixture was stirred at RT for 2 days. THF was removed under vacuum and the solution diluted with water. This solution was washed with Et2O and acidified to pH 2 with conc HCl. The aqueous phase was extracted with EtOAc, washed with brine, dried over MgSO4 and concentrated affording the title compound as a beige solid (5.48 g, 88%). 1H NMR (DMSO-d6, 300 MHz) δ 12.98 (br s, 1H), 8.53 (br s, 1H), 8.07-8.06 (d, J=1.91 Hz, 1H), 7.77-7.73 (dd, J=8.34 Hz, 1.97 Hz, 1H), 7.47-7.45 (d, J=8.34 Hz, 1H), 3.43-2.58 (m, 6H), 1.84-1.46 (m, 6H), 0.83-0.81 (d, J=6.09 Hz, 3H). HPLC (Method A) Rt 2.29 min (Purity: 99.0%).

reactant | Methanesulfonyl chloride | 21.72 mmol, 1.68 mL, 1.10 eq. | CS(=O)(=O)Cl | CH3ClO2S
reactant | ethyl 3-amino-4-(2-methylpiperidin-1-yl)benzoate | 19.74 mmol, 5.18 g, 1 eq. | NC=1C=C(C(=O)OCC)C=CC1N1C(CCCC1)C | C15H22N2O2
reactant | lithium hydroxide | 98.72 mmol, 2.36 g, 5 eq. | [OH-].[Li+]
reactant | water | 30 mL | O | H2O
solvent | DCM | 40 mL | C(Cl)Cl | CH2Cl2
solvent | THF | 30 mL | C1CCOC1 | C4H8O
product | 4-(2-methylpiperidin-1-yl)-3-[(methylsulfonyl)amino]benzoic acid | 5.48 g, 88% | CC1N(CCCC1)C1=C(C=C(C(=O)O)C=C1)NS(=O)(=O)C | C14H20N2O4S
